US09278910B2
Prepared using General Procedure 6: To a stirred solution of 4-((tert-butoxycarbonyl)amino)benzoic acid (2.0 g, 8.43 mmol), tert-butyl 2-((4-bromobenzyl)amino)acetate INT-60 (2.53 g, 8.43 mmol) and TEA (1.76 mL, 12.6 mmol) in DMF (15 mL) was added HATU (3.53 g, 9.27 mmol) at room temperature. After stirring at room temperature for 2 h the reaction mixture was diluted with EA (150 mL) and washed with brine (200 mL). The organics were concentrated in vacuo and the residue was purified by chromatography (EA/hexanes) to afford 3.97 g (91%) of tert-butyl 2-(N-(4-bromobenzyl)-4-((tert-butoxycarbonyl)amino)benzamido)acetate INT-61 as a viscous oil. LCMS-ESI (m/z) calculated for C25H31BrN2O5: 519; found: 517/519 [M−H]−, tR=2.68 min (Method 10).

reactant | 4-((tert-butoxycarbonyl)amino)benzoic acid | 8.43 mmol, 2.0 g | C(C)(C)(C)OC(=O)NC1=CC=C(C(=O)O)C=C1 | C12H15NO4
reactant | tert-butyl 2-((4-bromobenzyl)amino)acetate | BrC1=CC=C(CNCC(=O)OC(C)(C)C)C=C1 | C13H18BrNO2
reactant | HATU | 9.27 mmol, 3.53 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
solvent | DMF | 15 mL | CN(C)C=O | C3H7NO
solvent | EA | 150 mL | CC(OCC)=O | C4H8O2
product | tert-butyl 2-(N-(4-bromobenzyl)-4-((tert-butoxycarbonyl)amino)benzamido)acetate | 3.97 g, 91% | BrC1=CC=C(CN(C(C2=CC=C(C=C2)NC(=O)OC(C)(C)C)=O)CC(=O)OC(C)(C)C)C=C1 | C25H31BrN2O5
